US04751319
3-tert-Butyl-2-(2,4,6-trimethylphenoxy)-1,3,2-oxazaphospholidine
The procedure of Example 1 is repeated using 4.4 g (0.11 mol) of sodium hydride with 45 ml of THF, 13.62 g (0.10 mol) of 2,4,6-trimethylphenol in 150 ml of THF and 18.16 g (0.10 mol) of 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine in 150 ml of THF to give a (75.6%) of colorless liquid: bp. 99°-103° C. (0.01 mm Hg).

reactant | sodium hydride | 0.11 mol, 4.4 g | [H-].[Na+]
reactant | 2,4,6-trimethylphenol | 0.10 mol, 13.62 g | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | 3-tert-butyl-2-chloro-1,3,2-oxazaphospholidine | 0.10 mol, 18.16 g | C(C)(C)(C)N1P(OCC1)Cl | C6H13ClNOP
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 3-tert-Butyl-2-(2,4,6-trimethylphenoxy)-1,3,2-oxazaphospholidine | 75.6% | C(C)(C)(C)N1P(OCC1)OC1=C(C=C(C=C1C)C)C | C15H24NO2P
